US04122086
cis-3-Azido-4-oxo-2-azetidinylmethyl bromide
A degassed solution of cis-3-azido-4-oxo-2-azetidinylmethyl tosylate (0.41 g, 1.4 mmol) in dimethylformamide (5 ml) was heated to 90° with LiBr (0.43 g, 5 mmol) for 4 hours. The reaction was poured into ethyl acetate and washed copiously with water. The dried solution was evaporated to give the title compound.

reactant | cis-3-azido-4-oxo-2-azetidinylmethyl tosylate | 1.4 mmol, 0.41 g | S(=O)(=O)(OC[C@@H]1NC([C@@H]1N=[N+]=[N-])=O)C1=CC=C(C)C=C1 | C11H12N4O4S
reactant | LiBr | 5 mmol, 0.43 g | [Li+].[Br-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | cis-3-Azido-4-oxo-2-azetidinylmethyl bromide | N(=[N+]=[N-])[C@@H]1[C@@H](NC1=O)CBr | C4H5BrN4O
